US08486962B2
To a solution of 5-nitro-thiophene-3-carboxylic acid methyl ester (0.5 g, 2.67 mmol) in aqueous acetic acid (5 ml) was added iron powder (1.04 g, 18.6 mmol) and the reaction mixture was heated to reflux for 3 hr. The reaction mixture was filtered and triethylamine was added to the filtrate. The compound was extracted with ethyl acetate and the organic layer was washed with water, concentrated and dried to yield crude compound. The compound was purified by silica gel column chromatography, using ethyl acetate/hexane as eluent, to yield 5-amino-thiophene-3-carboxylic acid methyl ester (0.1 g, 24%).

reactant | 5-nitro-thiophene-3-carboxylic acid methyl ester | 2.67 mmol, 0.5 g | COC(=O)C1=CSC(=C1)[N+](=O)[O-] | C6H5NO4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 18.6 mmol, 1.04 g | [Fe] | Fe
product | 5-amino-thiophene-3-carboxylic acid methyl ester | 0.1 g, 24% | COC(=O)C1=CSC(=C1)N | C6H7NO2S
